**************************************************
* Manufacturer:           Wurth Elektronik 
* Kinds:                  Power Inductor
* Matchcode:              WE-PD2SR 
* Library Type:           LTspice
* Version:                rev22a
* Created/modified by:    Ella      
* Date and Time:          2022-06-10
* Team:                   eiSos EDA Service  
* Contact:                libraries@we-online.com
**************************************************
* Copyright(C) 2022 Würth Elektronik eiSos GmbH & Co. KG
* All Rights Reserved.
**************************************************
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.
**************************************************
.subckt 7850_744787012_1.2u 1 2
Rp 1 2 1567.8
Cp 1 2 1.42212p
Rs 1 N3 0.0085
L1 N3 2 1.17118868u
.ends 7850_744787012_1.2u
*******
.subckt 7850_744787027_2.7u 1 2
Rp 1 2 3202.753
Cp 1 2 2.322855p
Rs 1 N3 0.0135
L1 N3 2 2.789146u
.ends 7850_744787027_2.7u
*******
.subckt 7850_744787039_3.9u 1 2
Rp 1 2 4293.294
Cp 1 2 2.59292p
Rs 1 N3 0.0167
L1 N3 2 3.890856u
.ends 7850_744787039_3.9u
*******
.subckt 7850_744787047_4.7u 1 2
Rp 1 2 5726.39
Cp 1 2 1.795119p
Rs 1 N3 0.0243
L1 N3 2 5.1455719u
.ends 7850_744787047_4.7u
*******
.subckt 7850_744787068_6.8u 1 2
Rp 1 2 6952.128
Cp 1 2 3.116245p
Rs 1 N3 0.027
L1 N3 2 6.8041224u
.ends 7850_744787068_6.8u
*******
.subckt 7850_744787082_8.2u 1 2
Rp 1 2 8622.735
Cp 1 2 2.843537p
Rs 1 N3 0.033
L1 N3 2 8.5119732375u
.ends 7850_744787082_8.2u
*******
.subckt 7850_744787100_10u 1 2
Rp 1 2 10357.96
Cp 1 2 3.805227p
Rs 1 N3 0.0365
L1 N3 2 9.94873u
.ends 7850_744787100_10u
*******
.subckt 7850_744787101_100u 1 2
Rp 1 2 92925.07
Cp 1 2 7.9654p
Rs 1 N3 0.396
L1 N3 2 103.51202u
.ends 7850_744787101_100u
*******
.subckt 7850_744787120_12u 1 2
Rp 1 2 12034.24
Cp 1 2 4.07934p
Rs 1 N3 0.045
L1 N3 2 12.0860955u
.ends 7850_744787120_12u
*******
.subckt 7850_744787121_120u 1 2
Rp 1 2 141840
Cp 1 2 8.80291p
Rs 1 N3 0.545
L1 N3 2 119.011488u
.ends 7850_744787121_120u
*******
.subckt 7850_744787150_15u 1 2
Rp 1 2 13969.67
Cp 1 2 4.567326p
Rs 1 N3 0.052
L1 N3 2 14.8512893u
.ends 7850_744787150_15u
*******
.subckt 7850_744787151_150u 1 2
Rp 1 2 106676
Cp 1 2 10.25425p
Rs 1 N3 0.61
L1 N3 2 145.89754u
.ends 7850_744787151_150u
*******
.subckt 7850_744787180_18u 1 2
Rp 1 2 15649.74
Cp 1 2 6.131139p
Rs 1 N3 0.067
L1 N3 2 17.1350444444444u
.ends 7850_744787180_18u
*******
.subckt 7850_744787181_180u 1 2
Rp 1 2 139843
Cp 1 2 7.439317p
Rs 1 N3 0.673
L1 N3 2 179.170352u
.ends 7850_744787181_180u
*******
.subckt 7850_744787220_22u 1 2
Rp 1 2 20858.75
Cp 1 2 5.88774p
Rs 1 N3 0.088
L1 N3 2 22.9388354u
.ends 7850_744787220_22u
*******
.subckt 7850_744787221_220u 1 2
Rp 1 2 195324.1
Cp 1 2 7.425036p
Rs 1 N3 0.743
L1 N3 2 215.35531u
.ends 7850_744787221_220u
*******
.subckt 7850_744787330_33u 1 2
Rp 1 2 29973.38
Cp 1 2 6.003671p
Rs 1 N3 0.137
L1 N3 2 33.3202244444444u
.ends 7850_744787330_33u
*******
.subckt 7850_744787470_47u 1 2
Rp 1 2 45853.18
Cp 1 2 6.95963p
Rs 1 N3 0.206
L1 N3 2 48.969048u
.ends 7850_744787470_47u
*******
.subckt 7850_744787680_68u 1 2
Rp 1 2 65838.19
Cp 1 2 6.620799p
Rs 1 N3 0.246
L1 N3 2 66.0958052222222u
.ends 7850_744787680_68u
*******
.subckt 7850_744787820_82u 1 2
Rp 1 2 78401.43
Cp 1 2 8.23377p
Rs 1 N3 0.278
L1 N3 2 78.506u
.ends 7850_744787820_82u
*******
