**************************************************
* Manufacturer:           Wurth Elektronik 
* Kinds:                  SMT Power Inductor
* Matchcode:              WE-PDF 
* Library Type:           LTspice
* Version:                rev22a
* Created/modified by:    Ella      
* Date and Time:          2022-06-10
* Team:                   eiSos EDA Service  
* Contact:                libraries@we-online.com
**************************************************
* Copyright(C) 2022 Würth Elektronik eiSos GmbH & Co. KG
* All Rights Reserved.
**************************************************
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.
**************************************************
.subckt 1045_7447797022_0.22u 1 2
Rp 1 2 581.92276
Cp 1 2 1.15110569p
Rs 1 N3 0.0029
L1 N3 2 0.22u
.ends 1045_7447797022_0.22u
*******
.subckt 1045_7447797050_0.5u 1 2
Rp 1 2 1202.145
Cp 1 2 1.62181p
Rs 1 N3 0.0043
L1 N3 2 0.5u
.ends 1045_7447797050_0.5u
*******
.subckt 1045_7447797110_1.1u 1 2
Rp 1 2 1785.9077
Cp 1 2 2.03396921p
Rs 1 N3 0.0059
L1 N3 2 1.1u
.ends 1045_7447797110_1.1u
*******
.subckt 1045_7447797180_1.8u 1 2
Rp 1 2 2563.115
Cp 1 2 2.2783386p
Rs 1 N3 0.0074
L1 N3 2 1.8u
.ends 1045_7447797180_1.8u
*******
.subckt 1045_7447797250_2.5u 1 2
Rp 1 2 3115.1141
Cp 1 2 3.07179038p
Rs 1 N3 0.009
L1 N3 2 2.5u
.ends 1045_7447797250_2.5u
*******
.subckt 1045_7447797360_3.6u 1 2
Rp 1 2 4575.69
Cp 1 2 2.792025p
Rs 1 N3 0.0108
L1 N3 2 3.6u
.ends 1045_7447797360_3.6u
*******
.subckt 1045_7447797470_4.7u 1 2
Rp 1 2 5111.453
Cp 1 2 2.91833p
Rs 1 N3 0.0173
L1 N3 2 4.7u
.ends 1045_7447797470_4.7u
*******
.subckt 1045_7447797620_6.2u 1 2
Rp 1 2 5535.2985
Cp 1 2 3.5104188p
Rs 1 N3 0.0198
L1 N3 2 6.2u
.ends 1045_7447797620_6.2u
*******
.subckt 1045_7447797820_8.2u 1 2
Rp 1 2 8027.243
Cp 1 2 4.20506p
Rs 1 N3 0.0253
L1 N3 2 8.2u
.ends 1045_7447797820_8.2u
*******
.subckt 1064_7447798022_0.22u 1 2
Rp 1 2 467.81652
Cp 1 2 1.08591229p
Rs 1 N3 0.0016
L1 N3 2 0.22u
.ends 1064_7447798022_0.22u
*******
.subckt 1064_7447798050_0.5u 1 2
Rp 1 2 952.427448
Cp 1 2 1.90437406p
Rs 1 N3 0.0022
L1 N3 2 0.5u
.ends 1064_7447798050_0.5u
*******
.subckt 1064_7447798110_1.1u 1 2
Rp 1 2 1471.525
Cp 1 2 2.705375p
Rs 1 N3 0.003
L1 N3 2 1.1u
.ends 1064_7447798110_1.1u
*******
.subckt 1064_7447798111_11u 1 2
Rp 1 2 7800.056
Cp 1 2 4.533961p
Rs 1 N3 0.014
L1 N3 2 11u
.ends 1064_7447798111_11u
*******
.subckt 1064_7447798131_13u 1 2
Rp 1 2 10836.16
Cp 1 2 3.61884p
Rs 1 N3 0.0199
L1 N3 2 13u
.ends 1064_7447798131_13u
*******
.subckt 1064_7447798151_15u 1 2
Rp 1 2 12395.517
Cp 1 2 4.152637p
Rs 1 N3 0.0218
L1 N3 2 15u
.ends 1064_7447798151_15u
*******
.subckt 1064_7447798180_1.8u 1 2
Rp 1 2 2052.09
Cp 1 2 3.26738p
Rs 1 N3 0.0038
L1 N3 2 1.8u
.ends 1064_7447798180_1.8u
*******
.subckt 1064_7447798181_18u 1 2
Rp 1 2 11779.2821
Cp 1 2 4.75009p
Rs 1 N3 0.0305
L1 N3 2 18u
.ends 1064_7447798181_18u
*******
.subckt 1064_7447798221_22u 1 2
Rp 1 2 15375.2
Cp 1 2 4.19509p
Rs 1 N3 0.033
L1 N3 2 22u
.ends 1064_7447798221_22u
*******
.subckt 1064_7447798241_24u 1 2
Rp 1 2 16138.806
Cp 1 2 4.610947p
Rs 1 N3 0.035
L1 N3 2 24u
.ends 1064_7447798241_24u
*******
.subckt 1064_7447798250_2.5u 1 2
Rp 1 2 2701.145
Cp 1 2 3.6514095p
Rs 1 N3 0.0044
L1 N3 2 2.5u
.ends 1064_7447798250_2.5u
*******
.subckt 1064_7447798271_27u 1 2
Rp 1 2 16395.49
Cp 1 2 4.96076p
Rs 1 N3 0.0376
L1 N3 2 27u
.ends 1064_7447798271_27u
*******
.subckt 1064_7447798360_3.6u 1 2
Rp 1 2 3525.8798
Cp 1 2 4.037433p
Rs 1 N3 0.00525
L1 N3 2 3.6u
.ends 1064_7447798360_3.6u
*******
.subckt 1064_7447798470_4.7u 1 2
Rp 1 2 5012.152
Cp 1 2 3.360535p
Rs 1 N3 0.0074
L1 N3 2 4.7u
.ends 1064_7447798470_4.7u
*******
.subckt 1064_7447798620_6.2u 1 2
Rp 1 2 5110.797
Cp 1 2 4.415376p
Rs 1 N3 0.0084
L1 N3 2 6.2u
.ends 1064_7447798620_6.2u
*******
.subckt 1064_7447798720_7.2u 1 2
Rp 1 2 6885.06
Cp 1 2 4.18517p
Rs 1 N3 0.0113
L1 N3 2 7.2u
.ends 1064_7447798720_7.2u
*******
.subckt 1064_7447798910_9.1u 1 2
Rp 1 2 6874.776
Cp 1 2 4.370459p
Rs 1 N3 0.0127
L1 N3 2 9.1u
.ends 1064_7447798910_9.1u
*******
